US07482448B2
To a solution of 5-thiophen-2-yl-oxazole (0.85 g, 5.62 mmol) in dry THF (4 mL) is added triethylborane (1.0 M in THF, 5.62 mmol, 5.62 mL). The mixture is stirred at room temperature for 45 min, then cooled to −78° C. and n-butyl lithium (1.6 M in hexane, 5.62 mmol, 3.51 mL) is added drop wise. The mixture is stirred at −78° C. for 45 min then a solution of (1-Formyl-propyl)-carbamic acid tert-butyl ester (2.81 mmol, 0.526 g) in dry THF (3 mL) is added slowly. The mixture is stirred at −78° C. for 4 h, then warmed to 0° C. and quenched by adding 30 mL of 10% (vol) HOAc in ethanol. The mixture is stirred at room temperature for 18 hr and then concentrated in vacuum. The residue is purified over 90 g of silica gel, eluted with ethyl acetate: heptane (1:2 then 1:1) to afford {(S)-1-[hydroxy-(5-thiophen-2-yl-oxazol-2-yl)-methyl]-propyl}-carbamic acid tert-butyl ester (363 mg, 38%) as an oil.

reactant | 5-thiophen-2-yl-oxazole | 5.62 mmol, 0.85 g | S1C(=CC=C1)C1=CN=CO1 | C7H5NOS
reactant | triethylborane | 5.62 mmol, 1.0 M, 5.62 mL | C(C)B(CC)CC | C6H15B
reactant | n-butyl lithium | 5.62 mmol, 1.6 M, 3.51 mL | C(CCC)[Li]
reactant | (1-Formyl-propyl)-carbamic acid tert-butyl ester | 2.81 mmol, 0.526 g | C(C)(C)(C)OC(NC(CC)C=O)=O | C9H17NO3
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | {(S)-1-[hydroxy-(5-thiophen-2-yl-oxazol-2-yl)-methyl]-propyl}-carbamic acid tert-butyl ester | 363 mg, 38% | C(C)(C)(C)OC(N[C@@H](CC)C(C=1OC(=CN1)C=1SC=CC1)O)=O | C16H22N2O4S
